US06995263B2
c] [2-Methyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-yl]-methanol
A solution of 2-methyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-nicotinic acid ethyl ester (400 mg, 1 mmol) in diethyl ether (6 ml) was added to a suspension of lithium aluminium hydride (77 mg, 2 mmol) in diethyl ether (12 ml) under an argon atmosphere at ambient temperature within 5 min. The mixture was stirred at reflux for 12 h, cooled to 0° C. and treated cautiously with ice water (12 ml) and 10% aqueous NaOH (6 ml). The reaction mixture was filtered over celite, t-butyl methylether was added and the layers were separated. The aqueous layer was extracted one more time with t-butyl methylether, the combined organic layers were washed with ice water/brine 1/1 and dried over sodium sulfate. Removal of the solvent under reduced pressure gave an orange oil which was purified by column chromatography (silica gel, heptane/AcOEt) to yield 140 mg (400 μmol, 39%) of the title compound as colorless crystals.

reactant | 2-methyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-nicotinic acid ethyl ester | 1 mmol, 400 mg | C(C)OC(C1=C(N=C(C=C1C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F)C)=O | C17H13F6NO3
reactant | lithium aluminium hydride | 2 mmol, 77 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 6 ml | [OH-].[Na+]
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 12 ml | C(C)OCC | C4H10O
product | [2-Methyl-6-(4-trifluoromethoxy-phenyl)-4-trifluoromethyl-pyridin-3-yl]-methanol | 400 μmol, 140 mg, 39% | CC1=NC(=CC(=C1CO)C(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F | C15H11F6NO2
